US06258951B1
A solution of 7-benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline hydrochloride (259 mg, 0.54 mmol), (prepared as described for the starting material in Example 12), in methanol (15 ml) containing 1M sodium hydroxide (1.6 ml) was stirred at ambient temperature for 1 hour. After addition of water (15 ml), concentrated hydrochloric acid (1 ml) was added and the mixture was stirred at ambient temperature for 15 minutes. After evaporation of methanol, the precipitate was filtered, washed with water and dried under vacuum to give 7-benzyloxy-4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxyquinazoline hydrochloride (192 mg, 80%). m.p. 294-298° C. 1H NMR Spectrum: (DMSOd6) 2.2(s, 3H); 4.05(s, 3H); 5.35(s, 2H); 6.9(d, 1H); 7.12(d, 1H) 7.35-7.5(m, 4H); 7.55-7.6(m, 2H); 8.25(s, 1H); 8.8(s, 1H); 9.7(s, 1H); 11.35(s, 1H) MS-ESI: 406 [MH]+

reactant | 7-benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline hydrochloride | 0.54 mmol, 259 mg | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F)OC
reactant | sodium hydroxide | 1M, 1.6 ml | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 7-benzyloxy-4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxyquinazoline hydrochloride | 192 mg, 80% | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)O)C)F)OC | InChI=1S/C23H20FN3O3.ClH/c1-14-8-17(24)19(10-20(14)28)27-23-16-9-21(29-2)22(11-18(16)25-13-26-23)30-12-15-6-4-3-5-7-15;/h3-11,13,28H,12H2,1-2H3,(H,25,26,27);1H
